US08563575B2
To a solution of 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (62 mg) and 6-(difluoromethoxy)-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (86 mg) in DMF (3 ml) was added NaH (13 mg) at room temperature, and the mixture was stirred at 180° C. under microwave irradiation for 30 min. The mixture was partitioned between water and AcOEt. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (dry charge, NH silica gel, eluted with 50%-100% AcOEt in hexane) and recrystallized from AcOEt/hexane to give 6-(difluoromethoxy)-1-ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (56 mg) as white crystals.

reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 62 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 6-(difluoromethoxy)-1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 86 mg | FC(OC=1C=C2C(=NC1)N(C(N2CC)=O)C2=CC=C(C=C2)O)F | C15H13F2N3O3
reactant | NaH | 13 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-(difluoromethoxy)-1-ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 56 mg | FC(OC=1C=C2C(=NC1)N(C(N2CC)=O)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C)F | C22H18F2N6O3
